// Generated for: spectre (Mar 20 14:05:04 2013 )
// Library name: gsclib045
// Cell name: DFFNSRX1
// View name: schematic

simulator lang=spectre

subckt DFFNSRX1 CKN D Q QN RN SN VSS VDD
mn26 (n20 CKNbb n21 VSS) g45n1svt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn25 (n21 D VSS VSS) g45n1svt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn57 (QN qint VSS VSS) g45n1svt w=(260n) l=45n nf=1 as=36.4f ad=36.4f \
        ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n sd=160n \
        sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
mn55 (Q qbint VSS VSS) g45n1svt w=(260n) l=45n nf=1 as=36.4f ad=36.4f \
        ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n sd=160n \
        sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
mn36 (n20 CKNb n30 VSS) g45n1svt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn35 (n30 mout VSS VSS) g45n1svt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn22 (RNb RN VSS VSS) g45n1svt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn20 (CKNb CKN VSS VSS) g45n1svt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn45 (qbint n35 VSS VSS) g45n1svt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn56 (qint qbint VSS VSS) g45n1svt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn52 (n40 qbint n42 VSS) g45n1svt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn51 (n40 RNb n42 VSS) g45n1svt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn50 (n42 SN VSS VSS) g45n1svt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn53 (n40 CKNbb n35 VSS) g45n1svt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn21 (CKNbb CKNb VSS VSS) g45n1svt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn32 (mout n20 n25 VSS) g45n1svt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn31 (n25 RNb mout VSS) g45n1svt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn30 (n25 SN VSS VSS) g45n1svt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn40 (n35 CKNb mout VSS) g45n1svt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mp25 (n22 D VDD VDD) g45p1svt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp26 (n20 CKNb n22 VDD) g45p1svt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp51 (n43 RNb VDD VDD) g45p1svt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp57 (QN qint VDD VDD) g45p1svt w=(390n) l=45n nf=1 as=54.6f ad=54.6f \
        ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n sb=140n \
        sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
mp55 (Q qbint VDD VDD) g45p1svt w=(390n) l=45n nf=1 as=54.6f ad=54.6f \
        ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n sb=140n \
        sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
mp36 (n20 CKNbb n31 VDD) g45p1svt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp35 (n31 mout VDD VDD) g45p1svt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp32 (mout n20 n26 VDD) g45p1svt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp31 (n26 RNb VDD VDD) g45p1svt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp22 (RNb RN VDD VDD) g45p1svt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp20 (CKNb CKN VDD VDD) g45p1svt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp53 (n41 CKNb n35 VDD) g45p1svt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp50 (n41 SN VDD VDD) g45p1svt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp45 (qbint n35 VDD VDD) g45p1svt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp56 (qint qbint VDD VDD) g45p1svt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp21 (CKNbb CKNb VDD VDD) g45p1svt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp40 (n35 CKNbb mout VDD) g45p1svt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp52 (n41 qbint n43 VDD) g45p1svt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp30 (mout SN VDD VDD) g45p1svt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
ends DFFNSRX1
// End of subcircuit definition.

