// Generated for: spectre (Mar 20 14:05:11 2013 )
// Library name: gsclib045
// Cell name: DFFQX1
// View name: schematic

simulator lang=spectre

subckt DFFQX1 CK D Q VSS VDD
mn26 (n20 CKb n21 VSS) g45n1svt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn25 (n21 D VSS VSS) g45n1svt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn55 (Q qbint VSS VSS) g45n1svt w=(260n) l=45n nf=1 as=36.4f ad=36.4f \
        ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n sd=160n \
        sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
mn50 (n35 qbint VSS VSS) g45n1svt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn51 (n30 CKb n35 VSS) g45n1svt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn35 (n25 mout VSS VSS) g45n1svt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn30 (mout n20 VSS VSS) g45n1svt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn40 (n30 CKbb mout VSS) g45n1svt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn45 (qbint n30 VSS VSS) g45n1svt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn21 (CKbb CKb VSS VSS) g45n1svt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn36 (n20 CKbb n25 VSS) g45n1svt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn20 (CKb CK VSS VSS) g45n1svt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mp26 (n20 CKbb n22 VDD) g45p1svt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp25 (n22 D VDD VDD) g45p1svt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp51 (n30 CKbb n36 VDD) g45p1svt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp50 (n36 qbint VDD VDD) g45p1svt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp55 (Q qbint VDD VDD) g45p1svt w=(390n) l=45n nf=1 as=54.6f ad=54.6f \
        ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n sb=140n \
        sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
mp35 (n26 mout VDD VDD) g45p1svt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp36 (n20 CKb n26 VDD) g45p1svt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp21 (CKbb CKb VDD VDD) g45p1svt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp20 (CKb CK VDD VDD) g45p1svt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp45 (qbint n30 VDD VDD) g45p1svt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp40 (n30 CKb mout VDD) g45p1svt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp30 (mout n20 VDD VDD) g45p1svt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
ends DFFQX1
// End of subcircuit definition.

